US05213606
Preparation of 2-{p-[(3,5-dichloro-2-pyridyl)oxy]phenoxy}propionyl chloride
Thionyl chloride (18.8 mL, 257.1 mmol) is added dropwise to a mixture of 2-{p-[(3,5-dichloro-2-pyridyl)oxy]phenoxy}propionic acid (21.1 g, 64.3 mmol) in chloroform (220 mL). When the addition is complete, dimethylformamide (1.5 mL) is added and the reaction mixture is stirred for 21 hours at 63° C., concentrated in vacuo and chased with chloroform to obtain the title product as a yellow syrup which is identified by 1H NMR spectral analysis.

reactant | Thionyl chloride | 257.1 mmol, 18.8 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-{p-[(3,5-dichloro-2-pyridyl)oxy]phenoxy}propionic acid | 64.3 mmol, 21.1 g | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(OC(C(=O)O)C)C=C1 | C14H11Cl2NO4
reactant | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | chloroform | 220 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-{p-[(3,5-dichloro-2-pyridyl)oxy]phenoxy}propionyl chloride | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(OC(C(=O)Cl)C)C=C1 | C14H10Cl3NO3
